US08557766B2
<Step 1> Synthesis of N-(((2′,6′-dimethyl-4′-(3-(methylsulfonyl)propoxy)-[1,1′-biphenyl]-3-yl)methyl)-4-(4,4,5,5,-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline
2′,6′-dimethyl-4′-(3-(methylsulfonyl)propoxy)-[1,1′-biphenyl]-3-carbaldehyde (1.0 g) synthesized according to a method described in [WO 2008/001931 pamphlet, (Reference Example 18)] and 4-(4,4,5,5,-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (0.63 g) were dissolved in methylene chloride (10 mL), and to the resultant solution, sodium triacetoxyborohydride (1.84 g) was added, followed by stirring the resultant reaction mixture at room temperature for 14 hours. To the reaction mixture, water (20 mL) was added, followed by extracting the reaction mixture with methylene chloride (20 mL) twice, and the resultant organic phase was washed sequentially with water (50 mL) and a saturated saline (50 mL) and was dried over anhydrous sodium sulfate. From the organic phase, the solvent was distilled off under reduced pressure to obtain the subject compound (1.4 g) as a colorless amorphous solid.

reactant | 2′,6′-dimethyl-4′-(3-(methylsulfonyl)propoxy)-[1,1′-biphenyl]-3-carbaldehyde | 1.0 g | CC1=C(C(=CC(=C1)OCCCS(=O)(=O)C)C)C1=CC(=CC=C1)C=O | C19H22O4S
reactant | 4-(4,4,5,5,-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 0.63 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | sodium triacetoxyborohydride | 1.84 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | 20 mL | O | H2O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | ((2′,6′-dimethyl-4′-(3-(methylsulfonyl)propoxy)-[1,1′-biphenyl]-3-yl)methyl)-4-(4,4,5,5,-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 1.4 g | CC1=C(C(=CC(=C1)OCCCS(=O)(=O)C)C)C1=CC(=CC=C1)CNC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C31H40BNO5S
